US05591722
A solution of 3',5'-di-O-toluoyl-4'-thiothymidine (formula β-17) (150 mg, 0.30 mmol) in anhydrous MeOH (30 mL) was stirred at room temperature with a freshly prepared solution of sodium methoxide (32.5 mg, 0.60 mmol) in MeOH (7.5 mL). A TLC aliquot at 3 hours showed complete consumption of starting material (TLC CHCl3 -MeOH 95:5). The solution was rendered neutral with Dowex 50W-X8 (H+) ion-exchange resin, the suspension was filtered, and the resin was washed with MeOH. The filtrates were combined and evaporated to dryness, and methyl p-toluate was removed at 50° C./0.01 torr. Crystallization of the residue from absolute EtOH gave pure 4'-thiothymidine (61 mg, 78%), mp 213°-215° C.; TLC 9:1 CHCl3 -MeOH, Rf =0.40; MS z/e 258 (M+1)+, UV λmax pH 1 272 (10.3), pH 7 272 (10.2), pH 13 271 (10.3 ); 1H NMR (Me2SO-d6, 300 MHz) δ1.80 (S, 3H, C-5, CH3), 2.10-2.24 (m, 2H, H-2'), 3.24-3.32 (m, 1H, H-4'), 3.50-3.66 (m, 2H, H-5'), 4.38 (br s, 1H, H-3'), 5.16 (br t, 1H, 5'-OH), 5.24 (d, 1H, 3'-OH, J=4 Hz), 6.30 (dd, 1, H-1', J=6.5 and 8 Hz), 7.32 (s, 1H, H-6), 11.32 (br s, 1H, H-3); 13C NMR (Me2SO-d6, 300 MHz) δ12.14 (C-5, CH3) 40.93 (C-1', JC,H =132.33 Hz), 59.01 (C-4', JC,H =143.3 Hz), 59.93 (C-1', JC,H =161.74), 63.51 (C-5'), 73.40 (C-3') 109.82 (C-5), 136.70 (C-6, JC,H =179 Hz), 150.59 (C-4) 163.37 (C-2) Anal Calcd. for C10H13N2O4S: C, 46.68; H, 5.09;N, 10.88; S, 12.46. Found: C, 46.59 H, 5.56; N, 10.74; S, 12.18.

reactant | 3',5'-di-O-toluoyl-4'-thiothymidine | 0.30 mmol, 150 mg | C=1(C(=CC=CC1)C(=O)O[C@H]1C[C@@H](S[C@@H]1COC(=O)C=1C(=CC=CC1)C)N1C(=O)NC(=O)C(C)=C1)C | C26H26N2O6S
reactant | sodium methoxide | 0.60 mmol, 32.5 mg | C[O-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | MeOH | 7.5 mL | CO | CH4O
product | 4'-thiothymidine | 61 mg, 78% | [C@@H]1(C[C@H](O)[C@@H](CO)S1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O4S
